US04987132
m-(4-Phenylbutoxy)benzyl alcohol (510 mg) was dissolved in 5 ml of benzene, 1.4 g of thionyl chloride was added, and the mixture was stirred at room temperature for 4 hours. The reaction mixture was concentrated under reduced pressure to give 520 mg of m-chloromethyl-(4-phenylbutoxy)benzene. This compound was then treated by the procedure of Reference Example 4 to give 470 mg of m-(4-phenylbutoxy)benzylamine.

reactant | m-(4-Phenylbutoxy)benzyl alcohol | 510 mg | C1(=CC=CC=C1)CCCCOC=1C=C(CO)C=CC1 | C17H20O2
reactant | thionyl chloride | 1.4 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | m-chloromethyl-(4-phenylbutoxy)benzene | 520 mg | ClCC=1C=C(C=CC1)OCCCCC1=CC=CC=C1 | C17H19ClO
